US05292719
To prepare the corresponding 6-carboxaldehyde, 16 portions of Ce(NH4)2 (NO3)6 (16×16.0 g=256.0 g) in methanol (16×100 ml) is added to a solution of 1,1,2,3,4,4,6,7-octamethyl-1,2,3,4-tetrahydronaphthalene (16.0 g) in methanol (700 ml), over 8 hrs, while maintaining the temperature at 50° C. After about 1/2 of the methanol is evaporated, the resulting product is extracted with petroleum ether 30° C.-50° C./saturated NaCl. After crystallizing in ethanol, treating the mother liquors and recrystallizing, the desired 6-carboxaldehyde, 6-formyl-1,1,2,3,4,4,7-heptamethyl-1,2,3,4-tetrahydronaphthalene is obtained.

reactant | 1,1,2,3,4,4,6,7-octamethyl-1,2,3,4-tetrahydronaphthalene | 16.0 g | CC1(C(C(C(C2=CC(=C(C=C12)C)C)(C)C)C)C)C | C18H28
reactant | methanol | 100 ml | CO | CH4O
reactant | methanol | 700 ml | CO | CH4O
product | 6-formyl-1,1,2,3,4,4,7-heptamethyl-1,2,3,4-tetrahydronaphthalene | C(=O)C=1C=C2C(C(C(C(C2=CC1C)(C)C)C)C)(C)C | C18H26O
